US06025457
In a mixed solvent prepared from 100 ml of water and 50 ml of acetone and containing 3.2 g of sodium hydroxide, 3.7 g of 2-aminoethanol was reacted with 12.5 g of trifluoromethanesulfonyl chloride at room temperature for 12 hours. The solvent was evaporated from the resultant reaction mixture by vacuum distillation. To the residue was added 50 ml of chloroform. The sodium chloride generated was removed by filtration. The resultant chloroform solution was distilled under vacuum to obtain 2-trifluoromethanesulfonamidoethanol. A 10 g portion was taken out of this reaction product and dissolved in 100 ml of acetone. Thereto was added dropwise 12.0 g of thionyl chloride over a period of 3 minutes. Subsequently, 10 ml of an aqueous solution containing 2.06 g of sodium hydroxide was added thereto dropwise to react the reactants at 55° C. for 12 hours. The solvent was removed from the resultant reaction mixture, and 100 ml of water was added to the residue. After this mixture was stirred, 100 ml of diethyl ether was added to conduct extraction.

reactant | water | 100 ml | O | H2O
reactant | sodium hydroxide | 3.2 g | [OH-].[Na+]
reactant | 2-aminoethanol | 3.7 g | NCCO | C2H7NO
reactant | trifluoromethanesulfonyl chloride | 12.5 g | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-trifluoromethanesulfonamidoethanol | FC(S(=O)(=O)NCCO)(F)F | C3H6F3NO3S
